US07612114B2
[3-Fluoro-4-(2-piperidin-1-ylethoxy)benzyl][5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine
Synthesized from 3-fluoro-4-(2-piperidin-1-ylethoxy)benzoic acid hydrochloride (1.2 g) and 5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine (600 mg) according to an analogous synthetic method to Example 152, the title compound (770 mg) was obtained.

reactant | 3-fluoro-4-(2-piperidin-1-ylethoxy)benzoic acid hydrochloride | 1.2 g | Cl.FC=1C=C(C(=O)O)C=CC1OCCN1CCCCC1
reactant | 5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine | 600 mg | COC=1C=CC(=C(C1)N)C1CC2=CC=C(C=C2CC1)OC | C18H21NO2
product | [3-Fluoro-4-(2-piperidin-1-ylethoxy)benzyl][5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | 770 mg | FC=1C=C(CNC2=C(C=CC(=C2)OC)C2CC3=CC=C(C=C3CC2)OC)C=CC1OCCN1CCCCC1 | C32H39FN2O3
